C1 (net3 net10) C=7.6E-5
C2 (net4 net7) C=4.9E-8
T3 (net1 net5 net5 0) pfet L=5.94E-6 W=6.70E-6
R4 (net4 net11) R=3.5E3
R5 (net2 net3) R=8.1E4
T6 (net3 net11 net11 0) pfet L=3.25E-6 W=8.22E-6
R7 (net9 net6) R=2.0E3
C8 (net7 net1) C=2.1E-11
R9 (net11 net2) R=9.1E4
T10 (net8 net5 net5 0) pfet L=8.85E-6 W=4.55E-6
T11 (net5 net5 net5 0) nfet L=1.77E-6 W=1.94E-6
T12 (net4 net11 net11 0) pfet L=4.11E-6 W=5.82E-6
T13 (vdd! net9 net9 0) pfet L=4.43E-6 W=5.23E-6
T14 (net5 net6 net6 0) pfet L=5.67E-6 W=6.21E-6
R15 (net11 net9) R=0.8E2
C16 (net2 net3) C=8.6E-11
R17 (net10 net1) R=5.6E3
C18 (net1 net2) C=4.7E-10
R19 (net8 net5) R=3.8E0
C20 (net3 net5) C=8.0E-11
T21 (vdd! net11 net11 0) nfet L=8.28E-6 W=7.41E-6
C22 (net3 net8) C=6.8E-12
C23 (net1 net5) C=5.7E-13
C24 (net9 net5) C=5.7E-9
T25 (vdd! net9 net9 0) nfet L=7.92E-6 W=4.59E-6
T26 (net2 net2 net2 0) nfet L=4.90E-6 W=5.71E-6
T27 (net9 net9 net9 0) nfet L=1.09E-6 W=4.38E-6
T28 (net4 net4 net4 0) pfet L=4.79E-6 W=8.56E-6
C29 (net11 net3) C=6.2E-11
T30 (net8 net1 net1 0) nfet L=4.16E-6 W=0.72E-6
R31 (net4 net5) R=4.7E5
T32 (0 net5 net5 0) pfet L=2.28E-6 W=3.31E-6
T33 (net5 net3 net3 0) nfet L=6.38E-6 W=2.61E-6
T34 (net3 net3 net3 0) pfet L=2.30E-6 W=1.55E-6
R35 (net11 net5) R=3.2E1
C36 (net9 net1) C=6.2E-8
R37 (net5 vdd!) R=3.0E4
R38 (net1 vdd!) R=3.2E1
T39 (net1 net7 net7 0) nfet L=2.70E-6 W=8.64E-6
T40 (net2 net3 net3 0) nfet L=4.02E-6 W=9.23E-6
T41 (net8 net10 net10 0) pfet L=7.42E-6 W=6.49E-6
T42 (net4 vdd! vdd! 0) nfet L=6.68E-6 W=0.36E-6
C43 (net9 net4) C=9.2E-8
R44 (net7 net6) R=9.4E0
C45 (net5 net9) C=3.4E-11
T46 (net10 net3 net3 0) nfet L=3.79E-6 W=2.48E-6
R47 (0 net11) R=3.0E0
T48 (net5 net8 net8 0) nfet L=3.25E-6 W=0.42E-6
R49 (net7 net6) R=6.5E1
C50 (net6 net3) C=0.9E-11
C51 (net7 net3) C=8.9E-6
T52 (net9 net6 net6 0) nfet L=2.51E-6 W=0.23E-6
T53 (net7 0 0 0) pfet L=2.92E-6 W=0.21E-6
R54 (net7 net11) R=1.0E4
T55 (net4 net6 net6 0) pfet L=1.95E-6 W=2.38E-6
C56 (net4 net6) C=9.1E-6
T57 (net2 net6 net6 0) pfet L=9.23E-6 W=3.09E-6
T58 (net4 net5 net5 0) pfet L=8.08E-6 W=7.49E-6
T59 (net3 vdd! vdd! 0) pfet L=1.37E-6 W=2.99E-6
T60 (net6 net8 net8 0) nfet L=9.17E-6 W=5.77E-6
T61 (net7 net6 net6 0) pfet L=6.76E-6 W=5.33E-6
R62 (net11 net2) R=0.2E0
C63 (net6 net3) C=5.4E-8
T64 (net4 0 0 0) pfet L=5.26E-6 W=0.28E-6
T65 (net4 0 0 0) pfet L=0.85E-6 W=0.19E-6
T66 (net11 net3 net3 0) pfet L=9.52E-6 W=7.92E-6
T67 (net3 net3 net3 0) pfet L=1.41E-6 W=8.98E-6
T68 (net11 net5 net5 0) pfet L=6.78E-6 W=4.63E-6

