T1 (0 net24 net24 0) nfet L=4.38E-6 W=2.42E-6
T2 (net8 net29 net29 0) nfet L=0.63E-6 W=7.04E-6
C3 (net31 net67) C=9.9E-10
T4 (net9 net58 net58 0) nfet L=1.08E-6 W=8.54E-6
T5 (0 net52 net52 0) pfet L=4.74E-6 W=6.51E-6
T6 (net63 net67 net67 0) pfet L=4.02E-6 W=4.30E-6
T7 (net16 net26 net26 0) nfet L=3.21E-6 W=5.17E-6
T8 (net64 net11 net11 0) pfet L=2.27E-6 W=0.44E-6
T9 (net50 net17 net17 0) nfet L=4.38E-6 W=0.54E-6
T10 (net48 net1 net1 0) nfet L=8.02E-6 W=0.56E-6
C11 (net29 net55) C=9.0E-12
R12 (net2 0) R=1.2E5
R13 (0 net58) R=8.6E6
T14 (net20 net63 net63 0) nfet L=6.61E-6 W=2.02E-6
T15 (net60 net64 net64 0) pfet L=1.56E-6 W=9.79E-6
C16 (net33 net21) C=5.4E-5
R17 (net4 net17) R=9.1E6
R18 (net34 net35) R=7.5E5
T19 (net33 vdd! vdd! 0) pfet L=8.79E-6 W=9.27E-6
C20 (net45 net47) C=3.8E-14
C21 (net44 net26) C=2.9E-6
T22 (0 vdd! vdd! 0) nfet L=1.94E-6 W=9.47E-6
T23 (net66 net66 net66 0) nfet L=8.05E-6 W=9.61E-6
C24 (net1 net67) C=3.9E-10
T25 (net16 net48 net48 0) nfet L=2.83E-6 W=2.12E-6
T26 (net29 net59 net59 0) pfet L=9.44E-6 W=4.54E-6
R27 (net4 net8) R=7.6E1
R28 (0 net24) R=3.0E4
T29 (net36 net2 net2 0) pfet L=6.90E-6 W=6.96E-6
T30 (vdd! net53 net53 0) nfet L=9.31E-6 W=3.76E-6
T31 (net29 net25 net25 0) nfet L=9.68E-6 W=9.66E-6
R32 (net11 net65) R=6.3E4
C33 (net14 net40) C=1.6E-9
R34 (net64 vdd!) R=5.5E3
T35 (net33 net41 net41 0) nfet L=4.35E-6 W=4.00E-6
R36 (net20 vdd!) R=7.2E0
C37 (net18 net31) C=4.8E-5
R38 (net63 net61) R=0.7E6
T39 (net45 net23 net23 0) nfet L=6.26E-6 W=5.70E-6
T40 (net42 net31 net31 0) nfet L=7.40E-6 W=1.68E-6
C41 (0 net41) C=0.9E-11
T42 (net46 net5 net5 0) pfet L=8.51E-6 W=7.96E-6
T43 (net67 vdd! vdd! 0) pfet L=0.85E-6 W=0.92E-6
R44 (net1 net30) R=9.9E3
R45 (net7 net39) R=5.0E5
T46 (vdd! net46 net46 0) nfet L=2.07E-6 W=1.94E-6
C47 (net34 net19) C=9.7E-5
C48 (net39 net41) C=4.2E-14
T49 (net55 net54 net54 0) nfet L=5.43E-6 W=9.88E-6
C50 (net50 net64) C=6.3E-7
T51 (net44 0 0 0) pfet L=0.39E-6 W=4.53E-6
R52 (net49 net55) R=5.2E0
T53 (net26 net33 net33 0) pfet L=5.87E-6 W=8.04E-6
T54 (net35 net59 net59 0) pfet L=7.27E-6 W=5.44E-6
C55 (net21 net56) C=5.5E-5
T56 (vdd! net11 net11 0) pfet L=6.38E-6 W=8.76E-6
C57 (net40 net59) C=5.9E-13
C58 (net62 net4) C=1.7E-10
T59 (net35 net54 net54 0) nfet L=6.74E-6 W=6.06E-6
R60 (0 net21) R=2.8E0
C61 (net20 net13) C=0.1E-7
T62 (net52 net7 net7 0) pfet L=9.60E-6 W=9.33E-6
T63 (net67 net2 net2 0) pfet L=9.40E-6 W=9.91E-6
R64 (net7 net6) R=5.1E2
R65 (net12 net66) R=3.6E4
T66 (vdd! net31 net31 0) nfet L=5.98E-6 W=9.87E-6
T67 (net51 net56 net56 0) nfet L=6.08E-6 W=6.93E-6
T68 (net17 net52 net52 0) nfet L=9.60E-6 W=3.40E-6
R69 (net4 net7) R=3.7E4
T70 (net13 net67 net67 0) pfet L=0.20E-6 W=0.87E-6
C71 (net10 vdd!) C=6.9E-12
R72 (net64 net4) R=1.6E1
R73 (vdd! net29) R=7.0E3
T74 (net57 net65 net65 0) nfet L=0.19E-6 W=0.38E-6
C75 (net66 net2) C=8.4E-14
T76 (net67 net60 net60 0) nfet L=4.74E-6 W=7.76E-6
C77 (net13 net20) C=0.5E-6
T78 (net10 net45 net45 0) nfet L=9.71E-6 W=3.52E-6
T79 (vdd! net63 net63 0) pfet L=2.88E-6 W=2.52E-6
T80 (net46 net21 net21 0) nfet L=4.84E-6 W=6.10E-6
R81 (net2 net53) R=1.6E5
T82 (vdd! 0 0 0) pfet L=9.19E-6 W=2.45E-6
T83 (net6 vdd! vdd! 0) nfet L=1.66E-6 W=8.09E-6
T84 (net2 net2 net2 0) nfet L=5.91E-6 W=7.85E-6
T85 (net32 net10 net10 0) pfet L=6.34E-6 W=0.46E-6
C86 (net6 net3) C=5.9E-12
T87 (net28 net56 net56 0) pfet L=9.00E-6 W=9.44E-6
C88 (net49 net33) C=2.5E-10
T89 (net7 net63 net63 0) pfet L=2.43E-6 W=8.78E-6
T90 (net65 net60 net60 0) pfet L=4.78E-6 W=4.61E-6
T91 (net27 net23 net23 0) nfet L=9.63E-6 W=7.69E-6
T92 (net41 net18 net18 0) nfet L=8.76E-6 W=0.13E-6
T93 (net29 net41 net41 0) pfet L=1.77E-6 W=5.86E-6
T94 (net48 net49 net49 0) pfet L=8.18E-6 W=3.05E-6
T95 (net10 vdd! vdd! 0) nfet L=3.17E-6 W=2.14E-6
C96 (net37 net26) C=7.6E-12
R97 (net23 net28) R=6.8E6
C98 (net57 net49) C=0.2E-11
T99 (net31 vdd! vdd! 0) nfet L=5.95E-6 W=9.19E-6
R100 (net28 net21) R=7.9E0
R101 (net32 net9) R=6.3E0
T102 (net55 net43 net43 0) nfet L=0.91E-6 W=1.53E-6
T103 (vdd! net57 net57 0) nfet L=1.97E-6 W=8.63E-6
T104 (net10 net15 net15 0) pfet L=1.50E-6 W=5.15E-6
T105 (net1 0 0 0) pfet L=5.80E-6 W=1.35E-6
T106 (net47 net2 net2 0) nfet L=9.59E-6 W=8.37E-6
C107 (net52 net66) C=0.2E-14
R108 (net44 net24) R=5.7E4
R109 (net17 net15) R=5.1E4
R110 (net7 0) R=9.4E6
R111 (net19 net1) R=8.8E5
C112 (net43 net58) C=4.9E-8
T113 (net61 net56 net56 0) nfet L=6.89E-6 W=4.53E-6
T114 (net63 net65 net65 0) pfet L=8.41E-6 W=0.91E-6
C115 (net53 net21) C=1.5E-6
C116 (net40 net8) C=1.7E-9
C117 (net57 net54) C=3.3E-12
C118 (net35 net51) C=2.1E-10
T119 (net56 net21 net21 0) nfet L=3.37E-6 W=6.69E-6
C120 (0 net19) C=8.9E-7
T121 (net40 net42 net42 0) pfet L=4.93E-6 W=7.67E-6
T122 (net53 net35 net35 0) pfet L=4.67E-6 W=9.67E-6
C123 (net49 net39) C=9.0E-12
R124 (net9 net13) R=9.6E3

