T1 (net1 vdd! vdd! 0) pfet L=8.16E-6 W=5.75E-6
C2 (net1 0) C=5.0E-11
R3 (vdd! net1) R=8.3E4
T4 (vdd! net1 net1 0) pfet L=2.98E-6 W=3.47E-6
T5 (net1 net1 net1 0) pfet L=2.42E-6 W=6.39E-6
C6 (0 net1) C=8.2E-12
C7 (net1 vdd!) C=0.8E-7
T8 (net1 net1 net1 0) nfet L=3.88E-6 W=2.08E-6
R9 (net1 0) R=7.6E2
T10 (net1 net1 net1 0) nfet L=7.56E-6 W=1.06E-6
R11 (0 net1) R=2.1E3
R12 (net1 0) R=7.4E0
T13 (net1 net1 net1 0) nfet L=3.61E-6 W=8.19E-6
T14 (net1 net1 net1 0) pfet L=6.19E-6 W=3.68E-6
T15 (net1 net1 net1 0) pfet L=9.28E-6 W=6.48E-6
R16 (net1 0) R=0.8E2
T17 (net1 net1 net1 0) nfet L=2.56E-6 W=6.51E-6
T18 (net1 net1 net1 0) nfet L=1.24E-6 W=6.19E-6
R19 (vdd! net1) R=8.6E0
R20 (net1 vdd!) R=7.7E3
T21 (net1 net1 net1 0) nfet L=0.25E-6 W=7.25E-6
C22 (net1 vdd!) C=0.3E-8
R23 (net1 0) R=7.5E3

