R1 (0 net19) R=0.5E1
C2 (net13 net12) C=6.4E-5
T3 (net4 net18 net18 0) nfet L=3.06E-6 W=0.80E-6
T4 (net10 vdd! vdd! 0) nfet L=8.05E-6 W=1.08E-6
T5 (net22 net33 net33 0) pfet L=8.14E-6 W=9.12E-6
C6 (net12 net2) C=8.3E-5
C7 (net11 net20) C=4.0E-8
R8 (net3 net16) R=7.5E3
T9 (net28 net29 net29 0) pfet L=0.32E-6 W=5.64E-6
T10 (net13 net4 net4 0) pfet L=2.36E-6 W=7.44E-6
T11 (net10 0 0 0) nfet L=5.04E-6 W=7.78E-6
T12 (net22 net34 net34 0) nfet L=5.97E-6 W=4.16E-6
T13 (net6 net19 net19 0) pfet L=6.19E-6 W=5.39E-6
C14 (vdd! net21) C=6.3E-8
T15 (net6 vdd! vdd! 0) nfet L=4.61E-6 W=7.15E-6
R16 (net21 net28) R=6.2E0
C17 (net13 net16) C=0.2E-11
T18 (net26 net5 net5 0) pfet L=3.11E-6 W=1.56E-6
T19 (net20 net6 net6 0) pfet L=8.30E-6 W=0.45E-6
T20 (vdd! net22 net22 0) pfet L=6.58E-6 W=4.46E-6
T21 (net21 net16 net16 0) nfet L=8.13E-6 W=8.41E-6
C22 (net18 net5) C=8.5E-6
C23 (net32 net8) C=1.4E-8
T24 (net21 net7 net7 0) nfet L=6.44E-6 W=0.25E-6
T25 (0 net22 net22 0) nfet L=9.03E-6 W=1.53E-6
C26 (net8 net12) C=4.1E-12
T27 (net14 net24 net24 0) nfet L=4.23E-6 W=1.24E-6
R28 (net4 net19) R=1.5E6
R29 (net18 net20) R=7.5E0
C30 (net19 net30) C=1.1E-13
T31 (net11 net10 net10 0) nfet L=7.52E-6 W=1.49E-6
T32 (net1 net3 net3 0) nfet L=7.76E-6 W=2.43E-6
T33 (net7 0 0 0) pfet L=4.00E-6 W=8.66E-6
T34 (net8 net4 net4 0) nfet L=8.50E-6 W=6.69E-6
R35 (net3 net17) R=0.6E3
R36 (net12 net33) R=2.6E1
C37 (net9 vdd!) C=7.0E-9
T38 (net33 net8 net8 0) pfet L=7.24E-6 W=6.71E-6
R39 (net22 net12) R=6.0E2
T40 (net23 net10 net10 0) pfet L=8.00E-6 W=6.59E-6
C41 (net27 net34) C=7.1E-11
T42 (net22 net8 net8 0) pfet L=3.69E-6 W=4.99E-6
T43 (vdd! net25 net25 0) nfet L=4.87E-6 W=6.40E-6
T44 (net19 net15 net15 0) nfet L=8.30E-6 W=2.34E-6
C45 (net27 net29) C=6.2E-9
R46 (net14 net29) R=9.7E5
R47 (net8 net18) R=4.1E4
C48 (net20 net33) C=0.3E-10
C49 (net15 vdd!) C=8.2E-9
T50 (net2 net31 net31 0) nfet L=5.65E-6 W=3.75E-6
C51 (net9 net14) C=4.0E-5
T52 (net17 net18 net18 0) pfet L=6.87E-6 W=5.73E-6
R53 (net12 net28) R=1.8E0
C54 (net9 net28) C=3.3E-5
T55 (net19 net33 net33 0) nfet L=4.14E-6 W=1.85E-6
T56 (net16 net8 net8 0) nfet L=9.24E-6 W=0.96E-6
R57 (net22 net25) R=0.1E0
T58 (net16 net21 net21 0) pfet L=9.84E-6 W=1.32E-6
T59 (net18 net19 net19 0) nfet L=4.79E-6 W=3.97E-6
R60 (net11 net10) R=3.9E1
T61 (net34 net28 net28 0) pfet L=4.82E-6 W=3.76E-6
C62 (net30 net13) C=9.2E-14
T63 (net12 net1 net1 0) nfet L=8.04E-6 W=7.80E-6
T64 (net11 net19 net19 0) pfet L=7.35E-6 W=7.63E-6
R65 (net16 net5) R=7.8E3
T66 (net27 net2 net2 0) nfet L=2.81E-6 W=3.29E-6
R67 (net14 net29) R=1.4E4
T68 (net25 net29 net29 0) pfet L=1.64E-6 W=4.68E-6
R69 (net23 net3) R=1.4E3
T70 (net12 net26 net26 0) pfet L=6.47E-6 W=1.13E-6
T71 (net22 net20 net20 0) nfet L=9.30E-6 W=5.57E-6
T72 (net31 net3 net3 0) nfet L=2.91E-6 W=9.02E-6
T73 (net25 net18 net18 0) nfet L=6.91E-6 W=1.29E-6
T74 (0 vdd! vdd! 0) pfet L=4.13E-6 W=1.39E-6
T75 (net23 net31 net31 0) pfet L=1.42E-6 W=1.40E-6
R76 (net17 vdd!) R=8.5E2
T77 (0 net33 net33 0) pfet L=4.13E-6 W=0.51E-6
T78 (net23 net8 net8 0) pfet L=1.62E-6 W=9.75E-6
T79 (net3 0 0 0) pfet L=4.08E-6 W=7.05E-6
R80 (net3 net15) R=8.3E5
T81 (net17 net23 net23 0) nfet L=1.58E-6 W=0.86E-6
R82 (net15 net17) R=8.9E3
C83 (net14 net15) C=5.2E-12
T84 (net23 net11 net11 0) pfet L=4.90E-6 W=1.71E-6
C85 (net4 net10) C=4.2E-6
T86 (net11 net29 net29 0) nfet L=2.98E-6 W=4.95E-6
C87 (vdd! 0) C=6.8E-8
T88 (net4 net8 net8 0) pfet L=0.62E-6 W=6.53E-6
T89 (net27 net10 net10 0) nfet L=5.80E-6 W=0.80E-6
T90 (net8 net8 net8 0) nfet L=5.88E-6 W=4.97E-6
R91 (net5 vdd!) R=0.6E1
T92 (net7 net11 net11 0) pfet L=0.62E-6 W=0.66E-6
T93 (net6 net4 net4 0) nfet L=4.59E-6 W=7.15E-6
C94 (net20 net10) C=1.6E-12
C95 (vdd! net13) C=1.3E-12
T96 (net29 net4 net4 0) pfet L=7.29E-6 W=9.90E-6
C97 (net2 net12) C=1.9E-10
C98 (net24 net4) C=9.0E-7

