T1 (net109 0 0 0) pfet L=7.71E-6 W=0.75E-6
C2 (net5 net52) C=1.0E-8
C3 (net34 net18) C=7.3E-5
T4 (net7 net7 net7 0) pfet L=9.51E-6 W=2.05E-6
C5 (net67 net1) C=5.7E-5
T6 (vdd! 0 0 0) nfet L=1.42E-6 W=0.42E-6
C7 (net8 net111) C=6.8E-12
T8 (vdd! net44 net44 0) pfet L=0.76E-6 W=5.30E-6
T9 (net105 net86 net86 0) nfet L=8.45E-6 W=2.01E-6
T10 (net88 net88 net88 0) pfet L=9.62E-6 W=4.46E-6
T11 (net28 net114 net114 0) nfet L=4.28E-6 W=4.79E-6
T12 (vdd! net40 net40 0) pfet L=4.20E-6 W=4.34E-6
T13 (net31 net7 net7 0) nfet L=5.49E-6 W=7.08E-6
R14 (net56 net28) R=7.9E2
T15 (net76 net37 net37 0) pfet L=4.99E-6 W=4.87E-6
R16 (net100 net77) R=7.8E3
R17 (net50 net76) R=0.7E4
C18 (net72 net60) C=6.2E-8
T19 (net98 vdd! vdd! 0) nfet L=2.92E-6 W=5.34E-6
T20 (net83 net12 net12 0) nfet L=6.57E-6 W=9.12E-6
R21 (net101 net53) R=3.5E1
T22 (net51 vdd! vdd! 0) nfet L=9.65E-6 W=4.35E-6
C23 (net13 net108) C=6.4E-7
T24 (net108 net29 net29 0) pfet L=2.88E-6 W=1.00E-6
T25 (net74 net106 net106 0) nfet L=3.70E-6 W=7.32E-6
C26 (net4 0) C=7.0E-11
R27 (net41 net110) R=4.8E2
T28 (net106 net12 net12 0) pfet L=3.50E-6 W=4.50E-6
T29 (net20 net61 net61 0) nfet L=2.66E-6 W=2.06E-6
R30 (net83 net16) R=1.2E6
T31 (net80 net71 net71 0) pfet L=1.52E-6 W=7.50E-6
T32 (vdd! net6 net6 0) nfet L=7.49E-6 W=2.97E-6
C33 (net55 net72) C=9.6E-7
C34 (net14 net61) C=6.1E-14
T35 (net62 vdd! vdd! 0) nfet L=6.76E-6 W=8.50E-6
R36 (net83 0) R=1.0E2
C37 (net86 net109) C=6.6E-7
R38 (net87 net1) R=7.2E6
C39 (net14 net72) C=2.2E-12
T40 (net74 net75 net75 0) pfet L=2.87E-6 W=0.47E-6
C41 (net110 net104) C=2.5E-12
R42 (net67 net13) R=6.5E6
C43 (net101 net117) C=3.6E-14
T44 (net62 net8 net8 0) nfet L=7.26E-6 W=0.34E-6
R45 (net24 net38) R=3.9E5
T46 (net12 net16 net16 0) nfet L=0.55E-6 W=3.32E-6
R47 (net7 net81) R=7.1E5
T48 (net101 net38 net38 0) pfet L=9.36E-6 W=8.30E-6
T49 (net104 0 0 0) nfet L=2.42E-6 W=1.98E-6
T50 (net46 net89 net89 0) pfet L=7.26E-6 W=8.46E-6
R51 (net85 net4) R=0.4E5
T52 (net106 net4 net4 0) nfet L=8.44E-6 W=5.83E-6
R53 (net104 net114) R=4.1E1
R54 (0 net71) R=8.8E3
C55 (net55 net100) C=5.4E-6
C56 (net12 net68) C=0.8E-5
C57 (net10 net19) C=6.9E-7
R58 (net45 net21) R=7.3E4
C59 (net44 net74) C=1.8E-12
C60 (net80 net52) C=0.5E-5
R61 (net56 net60) R=2.9E0
T62 (net31 net29 net29 0) nfet L=0.91E-6 W=0.54E-6
C63 (vdd! net51) C=8.4E-12
T64 (net80 net42 net42 0) nfet L=8.91E-6 W=3.16E-6
T65 (net21 net114 net114 0) pfet L=0.47E-6 W=8.78E-6
C66 (0 net110) C=8.3E-10
C67 (net82 net31) C=9.0E-12
T68 (net88 net5 net5 0) pfet L=9.99E-6 W=8.55E-6
R69 (net55 net57) R=8.3E0
T70 (net52 net71 net71 0) pfet L=8.16E-6 W=3.21E-6
T71 (net8 net107 net107 0) pfet L=9.54E-6 W=9.09E-6
R72 (net104 net71) R=6.5E6
T73 (net36 net93 net93 0) nfet L=6.38E-6 W=8.09E-6
C74 (net77 net107) C=2.9E-7
T75 (net68 net56 net56 0) pfet L=7.66E-6 W=5.15E-6
T76 (net6 net14 net14 0) pfet L=3.31E-6 W=9.37E-6
R77 (net115 net117) R=6.7E5
T78 (net63 net41 net41 0) nfet L=6.95E-6 W=7.88E-6
T79 (net31 net98 net98 0) pfet L=3.85E-6 W=7.91E-6
C80 (net13 net66) C=6.3E-9
R81 (net109 net98) R=4.5E0
C82 (net97 net64) C=0.4E-10
T83 (net86 net10 net10 0) pfet L=8.88E-6 W=4.53E-6
T84 (net104 net93 net93 0) nfet L=6.13E-6 W=4.45E-6
R85 (net50 net116) R=3.5E2
T86 (net54 net25 net25 0) nfet L=6.26E-6 W=8.55E-6
T87 (net113 net43 net43 0) pfet L=9.80E-6 W=4.48E-6
T88 (net85 net30 net30 0) nfet L=9.41E-6 W=9.65E-6
C89 (net23 net27) C=2.3E-11
C90 (net35 net36) C=8.4E-12
T91 (net113 net87 net87 0) nfet L=2.41E-6 W=9.30E-6
C92 (net83 net5) C=8.3E-6
R93 (net66 net72) R=1.3E4
R94 (net115 vdd!) R=4.6E2
C95 (net38 vdd!) C=3.6E-5
T96 (net102 net69 net69 0) nfet L=1.71E-6 W=5.32E-6
T97 (net34 net11 net11 0) pfet L=5.39E-6 W=5.67E-6
C98 (net114 net9) C=3.7E-13
R99 (net103 net50) R=2.8E2
C100 (net79 net71) C=6.2E-10
C101 (net21 net90) C=7.3E-9
T102 (net75 net84 net84 0) pfet L=0.99E-6 W=9.61E-6
C103 (net36 net103) C=7.1E-8
R104 (net7 net83) R=6.3E0
T105 (vdd! net42 net42 0) nfet L=3.73E-6 W=4.81E-6
T106 (net76 net15 net15 0) nfet L=4.21E-6 W=5.91E-6
R107 (net109 net10) R=7.4E5
T108 (0 net87 net87 0) nfet L=9.44E-6 W=8.85E-6
R109 (net52 net112) R=0.2E6
T110 (vdd! net88 net88 0) nfet L=8.49E-6 W=0.83E-6
C111 (net75 net35) C=8.6E-7
T112 (net116 net96 net96 0) pfet L=5.22E-6 W=6.82E-6
T113 (net60 net2 net2 0) nfet L=0.41E-6 W=2.82E-6
T114 (net19 net78 net78 0) nfet L=2.19E-6 W=8.83E-6
C115 (net47 net40) C=6.9E-11
R116 (net10 net51) R=1.1E0
T117 (net75 net114 net114 0) pfet L=8.97E-6 W=0.11E-6
T118 (net20 net71 net71 0) pfet L=1.96E-6 W=5.83E-6
R119 (net110 net37) R=2.8E4
T120 (net70 net89 net89 0) pfet L=2.50E-6 W=3.00E-6
C121 (vdd! net108) C=3.7E-6
R122 (net14 net45) R=7.0E6
T123 (net26 net43 net43 0) nfet L=7.82E-6 W=1.43E-6
T124 (net9 net44 net44 0) pfet L=7.80E-6 W=9.43E-6
T125 (net74 net9 net9 0) nfet L=6.62E-6 W=4.86E-6
T126 (net88 net105 net105 0) nfet L=6.99E-6 W=5.11E-6
C127 (net72 net24) C=2.9E-5
C128 (net71 net110) C=0.6E-10
T129 (net72 net14 net14 0) pfet L=7.29E-6 W=1.55E-6
R130 (net95 net22) R=7.8E4
C131 (net11 net104) C=6.2E-13
R132 (vdd! net72) R=9.8E5
T133 (net30 net72 net72 0) nfet L=0.76E-6 W=4.52E-6
R134 (vdd! net15) R=7.5E4
R135 (net95 net1) R=5.7E3
C136 (net77 net70) C=0.2E-9
T137 (net14 net99 net99 0) pfet L=8.28E-6 W=4.78E-6
C138 (net47 net110) C=0.4E-11
T139 (net55 net71 net71 0) nfet L=1.43E-6 W=8.57E-6
T140 (net26 net14 net14 0) nfet L=3.16E-6 W=8.28E-6
C141 (net32 net17) C=2.1E-9
C142 (net18 net38) C=6.1E-9
R143 (net24 net47) R=0.5E5
C144 (net18 net36) C=7.2E-6
T145 (net88 net93 net93 0) pfet L=5.38E-6 W=8.73E-6
T146 (net3 net30 net30 0) nfet L=1.03E-6 W=1.37E-6
T147 (net114 net103 net103 0) pfet L=1.51E-6 W=4.70E-6
T148 (net108 net12 net12 0) pfet L=5.44E-6 W=4.00E-6
C149 (0 net90) C=8.4E-14
T150 (net70 net99 net99 0) pfet L=4.39E-6 W=2.60E-6
T151 (net116 net107 net107 0) pfet L=6.29E-6 W=9.50E-6
T152 (net25 0 0 0) pfet L=9.38E-6 W=1.73E-6
R153 (0 net101) R=5.6E2
T154 (net27 net2 net2 0) pfet L=1.76E-6 W=5.15E-6
C155 (net73 0) C=8.2E-11
T156 (net38 net86 net86 0) nfet L=7.06E-6 W=2.15E-6
C157 (net67 net36) C=8.5E-8
R158 (net21 net45) R=8.3E0
C159 (net69 net12) C=8.8E-5
T160 (net117 net113 net113 0) nfet L=4.31E-6 W=9.47E-6
C161 (vdd! net63) C=6.9E-11
C162 (net66 net44) C=2.7E-8
C163 (net110 net75) C=9.5E-8
C164 (net13 net66) C=0.9E-9
C165 (0 net5) C=0.5E-12
T166 (net60 net69 net69 0) pfet L=7.80E-6 W=0.86E-6
T167 (net65 net23 net23 0) pfet L=8.32E-6 W=8.73E-6
T168 (net14 net67 net67 0) pfet L=0.52E-6 W=7.56E-6
C169 (net42 net78) C=9.3E-8
C170 (net48 net76) C=3.3E-11
T171 (net36 net68 net68 0) nfet L=5.96E-6 W=4.92E-6
R172 (net51 net59) R=4.4E6
C173 (net115 net24) C=2.0E-5
T174 (net109 net76 net76 0) nfet L=8.02E-6 W=7.87E-6
T175 (net10 net64 net64 0) pfet L=2.95E-6 W=3.71E-6

