R1 (net49 net54) R=5.6E4
C2 (net32 net45) C=8.9E-10
R3 (net13 net34) R=1.4E2
R4 (net53 vdd!) R=3.1E3
C5 (net9 net49) C=3.2E-13
C6 (net37 net32) C=4.1E-8
T7 (net31 net5 net5 0) nfet L=7.95E-6 W=2.35E-6
T8 (net16 net5 net5 0) nfet L=7.09E-6 W=0.36E-6
T9 (net48 net55 net55 0) nfet L=6.50E-6 W=5.82E-6
T10 (net31 net3 net3 0) nfet L=1.29E-6 W=7.50E-6
T11 (net2 net36 net36 0) pfet L=5.37E-6 W=4.00E-6
T12 (net7 vdd! vdd! 0) nfet L=0.16E-6 W=3.48E-6
T13 (net35 net31 net31 0) pfet L=7.06E-6 W=4.85E-6
C14 (net54 net19) C=3.5E-5
T15 (net18 net22 net22 0) pfet L=1.24E-6 W=6.28E-6
R16 (net32 net34) R=1.8E5
T17 (net22 net46 net46 0) nfet L=3.35E-6 W=0.11E-6
T18 (net47 net48 net48 0) nfet L=0.37E-6 W=9.47E-6
R19 (net4 net40) R=4.6E0
C20 (net21 vdd!) C=7.7E-8
T21 (net41 net3 net3 0) nfet L=2.56E-6 W=8.53E-6
C22 (net24 net31) C=3.7E-12
T23 (net26 net2 net2 0) pfet L=3.65E-6 W=5.29E-6
T24 (0 0 0 0) pfet L=0.76E-6 W=2.71E-6
T25 (net38 vdd! vdd! 0) pfet L=8.11E-6 W=3.53E-6
C26 (net43 net42) C=8.7E-10
T27 (net43 net29 net29 0) nfet L=8.63E-6 W=5.55E-6
T28 (net35 net1 net1 0) pfet L=8.96E-6 W=4.40E-6
R29 (net7 net45) R=6.5E1
T30 (net27 net26 net26 0) pfet L=7.63E-6 W=5.83E-6
C31 (vdd! net49) C=6.2E-12
T32 (vdd! net19 net19 0) pfet L=9.48E-6 W=2.35E-6
T33 (net9 0 0 0) nfet L=2.90E-6 W=8.02E-6
R34 (net18 net55) R=2.1E6
T35 (net7 net22 net22 0) nfet L=6.86E-6 W=7.67E-6
T36 (net36 net16 net16 0) pfet L=8.15E-6 W=5.49E-6
T37 (net33 net41 net41 0) nfet L=8.62E-6 W=2.16E-6
R38 (net21 net43) R=3.1E4
C39 (net42 0) C=5.3E-9
T40 (net29 net26 net26 0) pfet L=4.28E-6 W=7.41E-6
T41 (net40 net30 net30 0) nfet L=0.78E-6 W=1.63E-6
T42 (vdd! net4 net4 0) nfet L=1.47E-6 W=5.17E-6
R43 (net28 net23) R=1.4E0
R44 (net8 0) R=3.0E6
T45 (net27 net18 net18 0) nfet L=2.43E-6 W=5.45E-6
R46 (vdd! net37) R=0.4E4
T47 (net39 net44 net44 0) pfet L=6.89E-6 W=9.73E-6
T48 (net27 net25 net25 0) pfet L=9.90E-6 W=8.33E-6
T49 (net39 net11 net11 0) pfet L=9.48E-6 W=5.95E-6
T50 (net41 0 0 0) pfet L=5.71E-6 W=1.97E-6
R51 (net38 net26) R=2.6E2
R52 (net44 net42) R=3.7E4
R53 (net44 net20) R=6.0E4
R54 (net29 vdd!) R=3.6E0
T55 (vdd! net21 net21 0) pfet L=2.67E-6 W=4.26E-6
T56 (net48 net21 net21 0) nfet L=7.06E-6 W=9.30E-6
R57 (net9 net38) R=9.3E2
T58 (net29 0 0 0) pfet L=9.54E-6 W=6.19E-6
C59 (net11 net52) C=7.1E-12
T60 (net10 net8 net8 0) pfet L=1.14E-6 W=7.68E-6
C61 (net41 net39) C=5.2E-14
C62 (net9 net41) C=5.2E-6
T63 (0 0 0 0) nfet L=8.44E-6 W=6.06E-6
T64 (net15 net12 net12 0) pfet L=6.57E-6 W=0.50E-6
R65 (net41 net11) R=0.4E0
R66 (net47 net43) R=7.7E4
R67 (net28 net22) R=4.2E4
R68 (net37 net34) R=8.0E2
T69 (net29 net36 net36 0) nfet L=4.11E-6 W=0.81E-6
C70 (net10 net9) C=6.7E-6
C71 (net14 net2) C=4.9E-8
C72 (net22 net50) C=2.5E-13
T73 (net44 net4 net4 0) pfet L=3.76E-6 W=6.23E-6
T74 (net1 net54 net54 0) pfet L=9.15E-6 W=5.28E-6
R75 (net12 net9) R=5.1E2
R76 (net18 net16) R=10.0E5
T77 (net26 net48 net48 0) nfet L=2.30E-6 W=6.75E-6
C78 (net12 net15) C=7.3E-5
R79 (net49 net35) R=4.9E2
C80 (net12 net14) C=2.7E-12
T81 (net12 net51 net51 0) nfet L=4.04E-6 W=2.09E-6
T82 (net4 net51 net51 0) pfet L=3.87E-6 W=6.80E-6
T83 (net46 net41 net41 0) nfet L=8.64E-6 W=4.57E-6
T84 (net2 net16 net16 0) pfet L=1.08E-6 W=2.89E-6
R85 (net32 net53) R=6.1E1
R86 (net19 net35) R=3.0E1
R87 (net15 net12) R=4.6E6
T88 (net53 net10 net10 0) pfet L=2.92E-6 W=8.43E-6
R89 (vdd! net10) R=6.4E6
T90 (net15 net17 net17 0) nfet L=0.94E-6 W=1.16E-6
C91 (net21 net29) C=7.1E-7
R92 (net52 0) R=6.2E4
R93 (net46 0) R=9.7E3
R94 (net6 net22) R=5.0E2
T95 (net23 net28 net28 0) nfet L=3.88E-6 W=9.23E-6
T96 (net11 net40 net40 0) nfet L=4.19E-6 W=3.09E-6
T97 (net4 net3 net3 0) nfet L=3.20E-6 W=5.83E-6
T98 (net25 net44 net44 0) nfet L=5.14E-6 W=9.58E-6
R99 (net5 net9) R=9.5E3

